US20010036653A1
Preparation of (1-ethyl-propoxy)-1,3-dimethoxy-benzene
To a yellow solution of 38.5 g 2,6-dimethoxy phenol (0.25 mol) and 83.1 g methanesulfonic acid 1-ethyl-propyl ester (0.50 mol) in 500 ml dimethylsulfoxide was added under stirring at 50° C. a solution of 56,1 g potassium tert-butylate (0.50 mol) in 500 ml dimethylsulfoxide over 4h . After additional 2.8 g potassium tert-butylate (0.025 mol) were added, stirring at 50° C. was continued for lh. The reaction mixture was distributed between 500 ml ethyl acetate and 600 ml 1N HCl. The organic layer was washed twice with 250 ml, a total of 500 ml deionized water and the aqueous layers were extracted sequentially with 250 ml ethyl acetate. The combined organic layers were dried over ca. 25 Na2SO4, filtered and the solvent was evaporated by rotary evaporation (50° C./≧1 mbar) affording 56.2 g (100.2%) of the title product as an orange oil, which was used without purification in the next step (bp. 90° C./0.03 mbar).

reactant | 2,6-dimethoxy phenol | 0.25 mol, 38.5 g | COC1=C(C(=CC=C1)OC)O | C8H10O3
reactant | methanesulfonic acid 1-ethyl-propyl ester | 0.50 mol, 83.1 g | C(C)C(CC)OS(=O)(=O)C | C6H14O3S
reactant | potassium tert-butylate | 0.50 mol, 56,1 g | CC(C)(C)[O-].[K+]
reactant | HCl | 1N, 600 ml | Cl | ClH
solvent | dimethylsulfoxide | 500 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 500 ml | CS(=O)C | C2H6OS
catalyst | potassium tert-butylate | 0.025 mol, 2.8 g | CC(C)(C)[O-].[K+]
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | (1-ethyl-propoxy)-1,3-dimethoxy-benzene | 56.2 g, 100.2% | C(C)C(CC)OC1=C(C=CC=C1OC)OC | C13H20O3
